US07402684B2
(R)-2-[4-(Benzothiazol-2-yloxy)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester:
Followed the same procedure as that of step 1 in Example 99 with the use of (R)-2-(4-hydroxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (293 mg, 1 mmol) and 2-chloro-benzothiazole (169 mg, 1 mmol) to afford the title product (305 mg, 75% yield); LCMS, 100% APCI+, Calcd: 426.50. Found m/z: 427.26 (M+1). 1H NMR (400 MHz, DMSO-d6); δ 1.41 (s, 9H), 1.78-2.13 (m, 4H), 3.24-3.36 (m, 2H), 3.89-4.12 (m, 3H), 7.08 (d, J=9.2 Hz, 2H), 7.31 (t, J=8.4 Hz, 1H), 7.37 (d, J=9.2 Hz, 2H), 7.42 (t, J=8.0 Hz, 1H), 7.67 (d, J=8.0 Hz, 1H), 7.91 (d, J=8.0 Hz, 1H).

reactant | (R)-2-(4-hydroxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1 mmol, 293 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)O | C16H23NO4
reactant | 2-chloro-benzothiazole | 1 mmol, 169 mg | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
product | (R)-2-[4-(Benzothiazol-2-yloxy)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 305 mg, 75% yield | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)OC=1SC2=C(N1)C=CC=C2 | C23H26N2O4S
